US05516774
2-Methyl-N-[4-[(5-oxo-5H-pyrrolo[2,1-c]-[1,4]benzodiazepin-10(11H]-yl)carbonyl]phenyl]-benzamide
To a stirred solution of 107 mg of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5-one in 3 ml of methylene chloride containing 0.084 ml of triethylamine is added 165 mg of 4-[(2-methylbenzoyl)amino]benzoyl chloride and stirring continued for 6 hours. The volatiles are removed in vacuo to a residue which is purified on thick layer chromatography plates with 7:3 hexane-ethyl acetate to afford the desired product as a foam.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5-one | 107 mg | C=1C=CN2C1CNC1=C(C2=O)C=CC=C1 | C12H10N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-[(2-methylbenzoyl)amino]benzoyl chloride | 165 mg | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-N-[4-[(5-oxo-5H-pyrrolo[2,1-c]-[1,4]benzodiazepin-10(11H]-yl)carbonyl]phenyl]-benzamide | CC1=C(C(=O)NC2=CC=C(C=C2)C(=O)N2CC=3N(C(C4=C2C=CC=C4)=O)C=CC3)C=CC=C1 | C27H21N3O3
